US07618960B2
Synthesis of tert-butyl {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamate
To a suspension of magnesium (249 mg) in diethyl ether (5 mL), 1-bromo-3,4,5-trifluorobenzene (446 μL) was added dropwise at 40° C. over 10 minutes, and the reaction solution was stirred at 40° C. for one hour. This solution was added dropwise to a solution of tert-butyl (S)-3-benzyloxymethyl-5-oxomorpholine-4-carboxylate (1.1 g) in tetrahydrofuran (30 mL) at −40° C. over 10 minutes, and the reaction solution was stirred at −40° C. for one hour. A saturated ammonium chloride solution was added to the solution in small portions at −40° C., and the reaction solution was returned to room temperature. Ethyl acetate was added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 952 mg of the title compound. The property values of the compound are as follows.

reactant | magnesium | 249 mg | [Mg] | Mg
reactant | tert-butyl (S)-3-benzyloxymethyl-5-oxomorpholine-4-carboxylate | 1.1 g | C(C1=CC=CC=C1)OC[C@@H]1N(C(COC1)=O)C(=O)OC(C)(C)C | C17H23NO5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1-bromo-3,4,5-trifluorobenzene | 446 μL | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-butyl {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamate | 952 mg | C(C1=CC=CC=C1)OC[C@@H](COCC(C1=CC(=C(C(=C1)F)F)F)=O)NC(OC(C)(C)C)=O | C23H26F3NO5
